US07897597B2
A modification of the general method of Part C of Example 3 was used. Chloroform (10 mL) was added to the solution of 8-benzyloxy-2-ethyl-1-methyl-5-oxido-1H-imidazo[4,5-c]quinoline (1.30 g, 3.90 mmol) in dichloromethane (35 mL) to improve the solubility. After the addition of trichloroacetyl isocyanate (0.633 mL, 5.31 mmol), the reaction was stirred for 3.5 hours. In the second step, chloroform (10 mL) was also added to the suspension in methanol (30 mL). After the reaction with sodium methoxide, the reaction was stirred over two nights, and the precipitate was isolated by filtration, washed with hexanes, recrystallized from methanol (278 mL/g), isolated by filtration, washed with hexanes, and dried for two days in a vacuum oven. A second crop of crystals from the mother liquor was combined with the first to provide 0.95 g of 8-benzyloxy-2-ethyl-1-methyl-1H-imidazo[4,5-c]quinolin-4-amine as a white crystalline solid, mp 238.4-238.9° C.

reactant | Chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 8-benzyloxy-2-ethyl-1-methyl-5-oxido-1H-imidazo[4,5-c]quinoline | 3.90 mmol, 1.30 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=[N+](C2C=C1)[O-])N=C(N3C)CC | C20H19N3O2
reactant | trichloroacetyl isocyanate | 5.31 mmol, 0.633 mL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sodium methoxide | C[O-].[Na+]
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | methanol | 30 mL | CO | CH4O
product | 8-benzyloxy-2-ethyl-1-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.95 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3C)CC | C20H20N4O
